US07012075B2
A solution of 2,2,2-trichloroethylisothiazol-5-ylcarbamate (253 mg, 0.918 mmol), triphenylphosphine (266 mg, 1.01 mmol) and methyl 2-hydroxy-4-methylpentanoate (151 mg, 1.03 mmol) in N,N-dimethylformamide (2.0 mL) at 0° C. was treated dropwise with diisopropylazodicarboxylate (200 μL, 1.02 mmol) and stirred at rt for 5 h. The mixture was then poured into water and extracted with a 1:1 mixture of ether and ethyl acetate (3×). The combined organics were washed with water and saturated sodium chloride solution, dried (Na2SO4) and concentrated. Flash chromatography of the residue on silica gel eluting with a mixture of ethyl acetate and, hexanes (1:3) gave 260 mg of methyl N-isothiazol-5-yl-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate as a faint-yellow oil.

reactant | 2,2,2-trichloroethylisothiazol-5-ylcarbamate | 0.918 mmol, 253 mg | ClC(COC(NC1=CC=NS1)=O)(Cl)Cl | C6H5Cl3N2O2S
reactant | triphenylphosphine | 1.01 mmol, 266 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 2-hydroxy-4-methylpentanoate | 1.03 mmol, 151 mg | OC(C(=O)OC)CC(C)C | C7H14O3
reactant | diisopropylazodicarboxylate | 1.02 mmol, 200 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl N-isothiazol-5-yl-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 260 mg | S1N=CC=C1N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl | C13H17Cl3N2O4S
